US06310086B1
To a solution of (R)-5-[2-[[2-[2-(2,2,2-trifluoro-ethoxy)phenoxy]ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide (3.0 g) in methylene chloride (50 ml) was added di-tert-butyl dicarbonate (1.32 g) under ice-cooling, and the mixture was stirred for 30 minutes under ice-cooling and overnight at room temperature. The reaction mixture was concentrated in vacuo, and the residue was dissolved in ethyl acetate (50 ml). The solution was washed with 10% aqueous citric acid solution, a saturated aqueous sodium bicarbonate solution and brine subsequently, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give pale brown amorphous tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxypropyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]-ethyl]carbamate (2.99 g).

reactant | (R)-5-[2-[[2-[2-(2,2,2-trifluoro-ethoxy)phenoxy]ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carboxamide | 3.0 g | FC(COC1=C(OCCN[C@@H](CC=2C=C3CCN(C3=C(C2)C(=O)N)CCCO)C)C=CC=C1)(F)F | C25H32F3N3O4
reactant | di-tert-butyl dicarbonate | 1.32 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxypropyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]-ethyl]carbamate | 2.99 g | C(N)(=O)C=1C=C(C=C2CCN(C12)CCCO)C[C@@H](C)N(C(OC(C)(C)C)=O)CCOC1=C(C=CC=C1)OCC(F)(F)F | C30H40F3N3O6
